US08030306B2
To a solution of 4-(5-(4-chlorophenyl)-6-hydrazinyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile (500 mg, 0.977 mmol) in THF (7 ml), Et3N (197 mg, 1.953 mmol) was added chloroacetyl chloride (110 mg, 0.977 mmol). The reaction was stirred at room temperature for 30 min. The reaction mixture was diluted with EtOAc (50 ml) and the resulting solution was washed with water (2×20 ml) and saturated NaCl (20 ml). The organic layer was dried (MgSO4), filtered and concentrated. The residue was purified using an ISCO automated chromatography system (12 g silica gel, 20-40% EtOAc/CH2Cl2) to give the product 2-chloro-N′-(4-(4-chlorophenyl)-5-(4-cyanophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-1,6-dihydropyridazin-3-yl)acetohydrazide as a light yellow solid (410 mg, 72% yield). HPLC retention time 2.920 min (Method A); LCMS (M+H)=587.0.

reactant | 4-(5-(4-chlorophenyl)-6-hydrazinyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile | 0.977 mmol, 500 mg | ClC1=CC=C(C=C1)C1=C(C(N(N=C1NN)CC=1C(=NC(=CC1)C(F)(F)F)C)=O)C1=CC=C(C#N)C=C1 | C25H18ClF3N6O
reactant | Et3N | 1.953 mmol, 197 mg | CCN(CC)CC | C6H15N
reactant | chloroacetyl chloride | 0.977 mmol, 110 mg | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 2-chloro-N′-(4-(4-chlorophenyl)-5-(4-cyanophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-1,6-dihydropyridazin-3-yl)acetohydrazide | 410 mg, 72% yield | ClCC(=O)NNC1=NN(C(C(=C1C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C#N)=O)CC=1C(=NC(=CC1)C(F)(F)F)C | C27H19Cl2F3N6O2
